US07906645B2
tert-Butyl 4-tert-butylpiperazine-1-carboxylate
A mixture of 1-benzyl-4-tert-butylpiperazine (740 mg), di-tert-butyl dicarbonate (1.48 g) and 10% palladium on carbon (200 mg) in ethanol (10 mL) was evacuated and purged with hydrogen three times and the left under an atmosphere of hydrogen overnight at room temperature. The mixture was filtered through a short pad of celite and concentrated at reduced pressure. The residue was purified on the Isco™ Companion (40 g column: 0-10% MeOH in DCM) to give the title compound as a white solid (667 mg).

reactant | 1-benzyl-4-tert-butylpiperazine | 740 mg | C(C1=CC=CC=C1)N1CCN(CC1)C(C)(C)C | C15H24N2
reactant | di-tert-butyl dicarbonate | 1.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | tert-Butyl 4-tert-butylpiperazine-1-carboxylate | 667 mg | C(C)(C)(C)N1CCN(CC1)C(=O)OC(C)(C)C | C13H26N2O2
